US04432993
A mixture of 2-benzofuran glyoxal (10.44 g) and 2-amino-3-(4-methylphenyl)propane (8.94 g) was refluxed in benzene using a Dean and Stark head until the theoretical amount of water had been removed. The solvent was evaporated, replaced with methanol and sodium borohydride (5 g) added. The methanol was evaporated, the residue partitioned between water and ether and the ether layer dried. Filtration and evaporation gave an oil which was chromatographed on Kieselgel 60. Elution with 2% methanol-chloroform gave N-[2-(4-methylphenyl)-1-methylethyl]-2-(2-benzofuranyl)-2-hydroxyethanamine (14 g).

reactant | 2-benzofuran glyoxal | 10.44 g | C(=O)C=O.C=1OC=C2C1C=CC=C2
reactant | 2-amino-3-(4-methylphenyl)propane | 8.94 g | NC(C)CC1=CC=C(C=C1)C | C10H15N
reactant | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-[2-(4-methylphenyl)-1-methylethyl]-2-(2-benzofuranyl)-2-hydroxyethanamine | 14 g | CC1=CC=C(C=C1)CC(C)NCC(O)C=1OC2=C(C1)C=CC=C2 | C20H23NO2
